US06833456B2
To a solution of 3 mL of DMSO was added 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (0.6 g, 2.63 mmol), 2-Methyl-3a,7a-dihydro-1H-indol-5-ol (0.42 g, 2.63 mmol), MeOH (0.5 mL) and Cs2CO3 (1.7 g, 5.35 mmol) then sealed and warmed to 165° C. for 3 h and cooled to 25° C. To the reaction solution was added 50 mL of EtOAc then portioned between 50/50 NaHCO3 (50 mL). The aqueous layer was then acidified using concentrated HCl drop wise to afford 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (0.65 g, 76%) as a white solid. HPLC: Rt 3.62 min. (92% area). 1H NMR (DMSO-d3, 400 MHz) δ: 11.07 (1H, s), 8.45 (1H, d, J=5.3 Hz), 7.98 (1H, s), 7.23 (1H, d, J=8.9 Hz), 7.19 (1H, d, J=7.5, 3.4 Hz), 6.78 (1H, dd, J=6.3, 2.3 Hz) 6.57 (1H, d, J=5.5 Hz), 6.03 (1H, s), 2.26 (3H, s). LCMS (ACPI) M+H+ m/z: 325.

reactant | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid | 2.63 mmol, 0.6 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)O | C8H4ClNO2S
reactant | 2-Methyl-3a,7a-dihydro-1H-indol-5-ol | 2.63 mmol, 0.42 g | CC=1NC2C=CC(=CC2C1)O | C9H11NO
reactant | Cs2CO3 | 5.35 mmol, 1.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 7-(2-Methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid | 0.65 g, 76% | CC=1NC2=CC=C(C=C2C1)OC1=C2C(=NC=C1)C=C(S2)C(=O)O | C17H12N2O3S
